US07208450B2
Step B Synthesis of 2-methylbenzoxazol-6-ol as an Intermediate
A solution of 1.5 grams (0.009 mole) of 4-((hydroxyimino)methyl)benzene-1,3-diol in 5 mL of DMF and 15 mL of acetonitrile was stirred and 1.3 mL (0.014 mole) of phosphorus oxychloride was added portionwise. Upon completion of addition the reaction mixture was stirred for an additional one hour. After this time the reaction mixture was stirred with ice and water that contained 3.0 grams of sodium acetate, and extracted with diethyl ether. The extract was washed with water, dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified with column chromatography on silica gel using mixtures of ethyl acetate and hexane, and finally 100% ethyl acetate, as eluants. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.75 gram of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-((hydroxyimino)methyl)benzene-1,3-diol | 0.009 mole, 1.5 grams | ON=CC1=C(C=C(C=C1)O)O | C7H7NO3
reactant | phosphorus oxychloride | 0.014 mole, 1.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | O | H2O
reactant | sodium acetate | 3.0 grams | C(C)(=O)[O-].[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-methylbenzoxazol-6-ol | 0.75 gram | CC=1OC2=C(N1)C=CC(=C2)O | C8H7NO2
